US05082490
12.9 g (0.1 mol) of 4-amino-5-methylamino-2,4-dihydro-3H-1,2,4-triazol-3-one are refluxed for 4 hours with 100 ml of triethyl orthoformate and 100 mg of p-toluenesulphonic acid. The mixture is then concentrated and crystallized with diethyl ether. Recrystallization from ethanol gives 10.0 g (54% of theory) of 4-ethoxymethyleneamino-5-methylamino-2,4-dihydro-3H-1,2,4-triazol-3-one of melting point 169° C.

reactant | 4-amino-5-methylamino-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.1 mol, 12.9 g | NN1C(NN=C1NC)=O | C3H7N5O
reactant | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | 4-ethoxymethyleneamino-5-methylamino-2,4-dihydro-3H-1,2,4-triazol-3-one | 10.0 g, 54% | C(C)OC=NN1C(NN=C1NC)=O | C6H11N5O2
